US05234935
Diethyl 1,2,6-trimethyl-4-(4-fluorophenyl)-1,4-dihydropyridine-3,5-dicarboxylate
2.78 g (0.008 mol) of diethyl 2,6-dimethyl-4-(4-fluorophenyl)-1,4-dihydro-pyridine-3,5-dicarboxylate dissolved in 25 ml of 1,2-dimethoxyethane, and 0.30 g (0.01 mol) of 80% strength sodium hydride and, after 30 min, 1.43 g (0.01 mol) of methyl iodide are added. The mixture is stirred at room temperature for 3 hours, neutralized with dilute hydrochloric acid and evaporated in vacuo. The residue is purified by chromatography on silica gel (methylene chloride).

reactant | diethyl 2,6-dimethyl-4-(4-fluorophenyl)-1,4-dihydro-pyridine-3,5-dicarboxylate | 0.008 mol, 2.78 g | CC=1NC(=C(C(C1C(=O)OCC)C1=CC=C(C=C1)F)C(=O)OCC)C | C19H22FNO4
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 0.01 mol, 1.43 g | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dimethoxyethane | 25 ml | COCCOC | C4H10O2
product | Diethyl 1,2,6-trimethyl-4-(4-fluorophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | CN1C(=C(C(C(=C1C)C(=O)OCC)C1=CC=C(C=C1)F)C(=O)OCC)C | C20H24FNO4
